*
* NGSPICE simulation script
*Title: t2.2
*

* forces current values to be saved
.options savecurrents

.include data1.txt
.include data2.txt

*voltage sources
Vs 1 0 0V

Vnull 0 0b 0.V

Hvd 5 8 Vnull pKd

*capacitor as voultage source
Vc 6 8 pVx


*current sources
Gib 6 3 2 5 pKb

*resistors
R1 1 2 pR1

R2 3 2 pR2

R3  2 5 pR3

R4 5 0 pR4

R5 6 5 pR5

R6 0b 7 pR6

R7 7 8 pR7

.op
.end


*Control comands
.control
op
echo  "op_TAB"
*print @Vs[i] @Hvd[i] 
print all
echo  "op_END"

.endc
